### PR TITLE
[Merged by Bors] - feat: port RingTheory.WittVector.InitTail

### PR DESCRIPTION
**Pull request by thorimur**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by jcommelin** [comment]
@thorimur I merged master. `ghost_calc` is now available.

File: Mathlib/RingTheory/WittVector/InitTail.lean [hunk 1]
```diff
@@ -80,13 +80,13 @@ theorem coeff_select (x : 𝕎 R) (n : ℕ) :
   · rw [AlgHom.map_zero, mk]; simp only [hi]; rfl
 #align witt_vector.coeff_select WittVector.coeff_select
 
--- Porting note: removed `@[is_poly]`, as it's no longer needed.
-theorem select_isPoly (P : ℕ → Prop) : IsPoly p fun R _Rcr x => select P x := by
+-- Porting note: replaced `@[is_poly]` with `instance`.
+instance selectIsPoly {P : ℕ → Prop} : IsPoly p fun _ _ x => select P x := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/WittVector/InitTail.lean:84]: Shouldn't this actually be called `select_isPoly`?

**Review by jcommelin — APPROVED** [review]
Thanks :tada: 

If CI passes, please remove the label `awaiting-CI` and merge this yourself, by adding a comment `bors r+`.

bors d+
